US09212182B2
Intermediate CQ: 1-(4-bromo-5-fluoro-2-hydroxyphenyl)-N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide
A solution of N-(4-methoxybenzyl)isoxazol-3-amine (3.37 g, 16.49 mmol) in THF (30.0 ml) was cooled to −78° C. LHMDS (15.74 ml, 15.74 mmol) was then added dropwise and the acetone/dryice bath was removed for 5 minutes. The solution was then returned to −78° C. and a solution of perfluorophenyl 1-(4-bromo-5-fluoro-2-hydroxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (4.35 g, 7.50 mmol) in THF (30.0 ml) was added dropwise. The resulting solution was stirred for 4 hours warming to room temperature. Saturated ammonium chloride was added to the reaction mixture. The resulting mixture was transferred to a sep. funnel containing water and the aqueous layer was washed 3× with EtOAc. The organic layers were combined, dried with MgSO4, filtered and concentrated to an oil. The crude product was purified by ISCO MPLC (100% heptanes to 60% 3:1 EtOAc:EtOH). The product eluted at 50% 3:1 EtOAc:EtOH. m/z (ESI) 602.1 (M+1)±.

reactant | N-(4-methoxybenzyl)isoxazol-3-amine | 16.49 mmol, 3.37 g | COC1=CC=C(CNC2=NOC=C2)C=C1 | C11H12N2O2
reactant | LHMDS | 15.74 mmol, 15.74 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | perfluorophenyl 1-(4-bromo-5-fluoro-2-hydroxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 7.50 mmol, 4.35 g | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)O | C21H8BrF6NO5S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30.0 ml | C1CCOC1 | C4H8O
solvent | THF | 30.0 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-bromo-5-fluoro-2-hydroxyphenyl)-N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)N(CC1=CC=C(C=C1)OC)C1=NOC=C1)=O)O | C26H19BrFN3O6S
